/*******************************************************************************
* Copyright (C) Maxim Integrated Products, Inc., All Rights Reserved.
*
* Permission is hereby granted, free of charge, to any person obtaining a
* copy of this software and associated documentation files (the "Software"),
* to deal in the Software without restriction, including without limitation
* the rights to use, copy, modify, merge, publish, distribute, sublicense,
* and/or sell copies of the Software, and to permit persons to whom the
* Software is furnished to do so, subject to the following conditions:
*
* The above copyright notice and this permission notice shall be included
* in all copies or substantial portions of the Software.
*
* THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS
* OR IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF
* MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT.
* IN NO EVENT SHALL MAXIM INTEGRATED BE LIABLE FOR ANY CLAIM, DAMAGES
* OR OTHER LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE,
* ARISING FROM, OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR
* OTHER DEALINGS IN THE SOFTWARE.
*
* Except as contained in this notice, the name of Maxim Integrated
* Products, Inc. shall not be used except as stated in the Maxim Integrated
* Products, Inc. Branding Policy.
*
* The mere transfer of this software does not imply any licenses
* of trade secrets, proprietary technology, copyrights, patents,
* trademarks, maskwork rights, or any other form of intellectual
* property whatsoever. Maxim Integrated Products, Inc. retains all
* ownership rights.
*******************************************************************************
*/
.SUBCKT MAX40079 1 2 3 4 5
*                | | | | |
*                | | | | Output
*                | | | Negative Supply
*                | | Positive Supply
*                | Inverting Input
*                Non-inverting Input
*
*
*#ASSOC Category="Op-amps" symbol=Maxim_opamp_5_term
* The following op-amps are covered by this model:
*      MAX40079,MAX40077,MAX40078
*
* Date of model creation: 2-11-2020_9:52:28_AM
* Level of Model Creator: 5.21_V1.21 / 02-06-20
*
* Revision History:
*      v1.0 - Initial Release - AR
*       
*       
*       
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*       
*?@ Start SIMPLIS Encryption $$WC_SIMPLIS_ENCRYPT_TAG$$
*
* CM / DM Input Parameters 
C2  1 4 3.5P
C3  2 4 3.5P
R19  1 4 2.00E12
R20  2 4 2.00E12
R21  1 2 1.35E12
C13  1 2 8.6P
* Differential Stage 
V1  3 10 1.3
R1 10 11 69.0K
R2 10 12 69.0K
G1 10 11 10 11 1.44M
G2 10 12 10 12 1.44M
MQ1 11 14 15 15 NMI 
MQ2 12 2 15 15 NMI 
I1 15 4 500U
V3 16 4 -100M
GD2 16 1 TABLE { V(16,1) } ((-100,-500E-18)(0,0)(1m,1u)(2m,1m)) 
V2 3 13 1.5
GD1 2 13 TABLE { V(2,13) } ((-100,-500E-18)(0,0)(1m,1u)(2m,1m)) 
* Noise Stage 
I2 21 20 1.00
D1 20  0 DN1
D2  0 21 DN1
I3 22 23 1N
R10 22 0  1k
R11  0 23 1k
E1 71 14 VALUE { (11.4U) + V(20) * 174M + V(21) * 174M + V(22) * 174M + V(23) * 174M }
I8 0 70 DC 1
R22 0 70 1 TC=6.00U
E5 1 71 VALUE {V(70)-1}
EG1 VIBIASP 0 62 0 1u
GB1 1 0 VIBIASP 0 1
EG2 VIBIASM 0 622 0 1u
GB2 2 0 VIBIASM 0 1
I6 0 62 DC 1uA
VA100 62A 62 DC 7.4E-05
R17 0 62A 74.0 TC=-2.07M,-30.9U
I622 0 622 DC 1uA
VA101 622A 622 DC 7.4E-05
R17A 0 622A 74.0 TC=-2.07M,-30.9U
R16 0 61 1 TC=462U,2.06U
G61 3 4 61 0 1
G60 0 61 TABLE { V(3, 4) } ((0, 0)(1.00,2.3E-15)(1.5,600U)(2.25,1.75M)(2.4,1.85M)(2.5,1.9M)(3.5,2.1M)
+ (4.00,2.2M)(4.5,2.3M)(5.5,2.5M))
* PSRR / CMRR 
G23  0 57 VALUE { V(35) * 20.0M + V(118) + V(128) + V(137) } 
G30 0 110 3 0 20.0U
R30 110 0 1G 
GR30 110 0 110 0 1m 
C30 110 0 14.0U
G31 0 111 110 0 1 
L31 111 112 1.59M
R32 112 0 1G 
GR32 112 0 112 0 1 
G33 0 114 111 0 1 
R34 114 0 1G 
C34 114 0 79.5N
GR34 114 0 114 0 1 
G35 0 115 114 0 1 
L35 115 116 10.6N
R36 116 0 1G 
GR36 116 0 116 0 1 
G37 0 117 115 0 1 
R37 117 0 1G 
C37 117 0 159P
GR37 117 0 117 0 1 
G38 0 118 117 0 1 
L38 118 119 159P
R39 119 0 1G 
GR39 119 0 119 0 1 
G40 0 120 4 0 20.0U
R40 120 0 1G 
GR40 120 0 120 0 1m 
C40 120 0 14.0U
G41 0 121 120 0 1 
L41 121 122 159P
R42 122 0 1G 
GR42 122 0 122 0 1 
G43 0 124 121 0 1 
R44 124 0 1G 
C44 124 0 159P
GR44 124 0 124 0 1 
G45 0 125 124 0 1 
L45 125 126 159P
R46 126 0 1G 
GR46 126 0 126 0 1 
G147 0 127 125 0 1 
R47 127 0 1G 
C47 127 0 159P
GR47 127 0 127 0 1 
G48 0 128 127 0 1 
L48 128 129 159P
R49 129 0 1G 
GR49 129 0 129 0 1 
G50 0 130 VALUE { ( V(15) ) * 20.0U}
R50 130 0 1G 
GR50 130 0 130 0 1m 
C50 130 0 14.0U
G51 0 131 130 0 1 
L51 131 132 159U
R51 132 0 1G 
GR51 132 0 132 0 1 
G53 0 133 131 0 1 
R53 133 0 1G 
C53 133 0  15.9N
GR53 133 0 133 0 1 
G55 0 134 133 0 1 
L55 134 135 159P
R55 135 0 1G 
GR55 135 0 135 0 1 
G57 0 137 134 0 1 
R57 137 0 1G 
C57 137 0  15.9N
GR57 137 0 137 0 1 
*
* OP Amp Output Gain / Response 
G3  0 30 12 11 1
R3 30  0 1.00K
G4 0 31 3 4 0.00
I4 0 31 DC 42.2
R4 31 0 1
E_VDDMAX VDE 0 3 4 1
V_VDD1 31VDD1 0 2.7
V_VDD2 31VDD2 0 5.5
G_ABMII2 0 31B VALUE { V(31)*(LIMIT(((V(31VDD1)-V(VDE))/(V(31VDD1)-V(31VDD2))), 0, 1))}
R_R3 31A 0 1 TC=0.00, 0.00
G_ABMII1 0 31A VALUE { V(31)*(LIMIT(((V(VDE)-V(31VDD2))/(V(31VDD1)-V(31VDD2))), 0, 1))}
G_G6 30 31C TABLE { V(30, 31C) } ((-100,-1n)(0,0)(1m,0.1)(101m,190.1))
E_ABM1 31C 0 VALUE { (V(31A) + V(31B)) }
R_R8 31B 0 1 TC=0.00, 0.00
G5 32 0 3 4 0.00
I5 32 0 DC 42.2
R5 32  0 1 
G_ABMII22 32B 0 VALUE { V(32)*(LIMIT(((V(31VDD1)-V(VDE))/(V(31VDD1)-V(31VDD2))), 0, 1))}
R_R23 32A 0 1 TC=0.00, 0.00
G_ABMII21 32A 0 VALUE { V(32)*(LIMIT(((V(VDE)-V(31VDD2))/(V(31VDD1)-V(31VDD2))), 0, 1))}
G_G26 32C 30 TABLE { V(30, 32C) } ((-101m,190.1)(-1m,0.1)(0,0)(100,-1n))
E_ABM21 0 32C VALUE { (V(32A) + V(32B)) }
R_R28 32B 0 1 TC=0.00, 0.00
G6  0 33 30 0 1m
R6  33 0 1K
G7  0 34 33 0 1.00
R7  34 0 1K
C7  34 0 14.0U
G8  0 37 34 0 1m
R8  37 0 1K
C8  37 0 5.30P
G9  0 38 37 0 1m
R9  39 0 1K
L9  38 39 159N
E9  35 0 38 0 1
G10 33 0 TABLE { V(35,3) } ((-1,-1p)(0,0)(30.0,1n))(33.0,1))
G11 33 0 TABLE { V(35,4) } ((-33.0,-1)((-30.0,-1n)(0,0)(1,1p))
* Output Impedance / Saturation / Current Limit 
R23 50 0 100MEG
VR15 57 96 0
R15X 57 96 1G
F1 0 50 VR15 1
R14 57  0 50.0
GD8 55 57 TABLE { V(55,57) } ((-0.2m,-250)(-0.1m,-1m)(0,0)(10,1p))
GD9 57 56 TABLE { V(57,56) } ((-0.2m,-250)(-0.1m,-1m)(0,0)(10,1p))
E3 55  0 VALUE { 0.00 + V(3) * 1 + V(51) * -11.6M }
E4 56  0 VALUE { 0.00 + V(4) * 1 + V(52) * -11.7M }
R12 51 0 1k
R13 52 0 1k
GD12 50 51 TABLE { V(50,51) } ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD13 50 52 TABLE { V(50,52) } ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G21  3  0 VALUE { -500U + V(51) * 1M }
G22  0  4 VALUE { -500U + V(52) * -1M }
GD24A 98 98A TABLE { V(98,98A) } ((-3m,-1000)(-2m,-10)(-1m,-1)(0,0)(1,1n))
GD24B 98 98B TABLE { V(98,98B) } ((-1,-1n)(0,0)(1m,1)(2m,10)(3m,1000))
R24A 0 98A 1 TC=0.00,0.00
R24B 0 98B 1 TC=0.00,0.00
G71 96 5 99 0 1
G70 0 98 TABLE { V(96,5) } ((-11.0,-50.0M)(-1.00M,-49.5M)(0,0)(1.00M,49.5M)(11.0,50.0M))
E6 99 0 VALUE { V(98) * LIMIT((( V(3) - V(4) ) * 0.00 + 1.00), 0.00, 1E6 ) * LIMIT((( V(3) - V(4) ) * 588M + -588M), 0, 1) }
D3 4 5 DESD
D4 5 3 DESD
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=200U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=2.9N AF=1
*
*?@ End SIMPLIS Encryption
*
.ENDS MAX40079




